US05296478
2-Hydroxy-N-(4-morpholinyl)-2-phenyl-2-(3-pyridinyl)-acetamide
A mixture of 2-hydroxy-2-phenyl-2-(3-pyridinyl)-acetic acid (3.48 g, 0.015 mole), 1-hyrdoxybenzotriazole hydrate (4.10 g, 0.03 mole), 1,3-Dicyclohexycarbodiimide (3.09 g, 0.015 mole), 4-aminomorpholine (1.45 ml, 0.015 mole), sodium bicarbonate (1.26 g, 0.015 mole), N,N-dimethylformamide (36 ml) and dioxane (36 ml) were stirred at room temperature overnight. The volatiles were removed in vacuo, dichloromethane (170 ml) was added and following filtration, the organic layer was washed with saturated sodium bicarbonate and brine. After drying, filtration and concentration, the residue was purified by column chromatography using 10% methanol in chloroform to give 3.92 g of the product as a white foam. High Res. Mass Spec. Calcd. for C17H19N3O3 : 314.1505 (M+H). Found: 314.1501.

reactant | 2-hydroxy-2-phenyl-2-(3-pyridinyl)-acetic acid | 0.015 mole, 3.48 g | OC(C(=O)O)(C=1C=NC=CC1)C1=CC=CC=C1 | C13H11NO3
reactant | 1-hyrdoxybenzotriazole hydrate | 0.03 mole, 4.10 g | O.ON1N=NC2=C1C=CC=C2
reactant | 4-aminomorpholine | 0.015 mole, 1.45 ml | NN1CCOCC1 | C4H10N2O
reactant | sodium bicarbonate | 0.015 mole, 1.26 g | C([O-])(O)=O.[Na+]
solvent | dioxane | 36 ml | O1CCOCC1 | C4H8O2
solvent | N,N-dimethylformamide | 36 ml | CN(C=O)C | C3H7NO
product | 2-Hydroxy-N-(4-morpholinyl)-2-phenyl-2-(3-pyridinyl)-acetamide | 3.92 g | OC(C(=O)NN1CCOCC1)(C=1C=NC=CC1)C1=CC=CC=C1 | C17H19N3O3
